US05599966
B2. 1-(2-Chlorophenyl)2-(6-hydroxy-1-hexylamino)ethanol
From 2-chlorostyrene oxide and 6-amino-1-hexanol. Working up by means of chromatography (ethyl acetate/methanol 1:1). Yield: 41%.

reactant | 2-chlorostyrene oxide | ClC1=C(C2CO2)C=CC=C1 | C8H7ClO
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 1-(2-Chlorophenyl)2-(6-hydroxy-1-hexylamino)ethanol | Yield: 41% | ClC1=C(C=CC=C1)C(CNCCCCCCO)O | C14H22ClNO2
